US07078426B2
A solution of 3-ethoxycarbonyl-1-(4-phenoxyphenyl)-1H-pyrazole (120 mg, 0.39 mmol) in 5 mL of a 2N solution of ammonia in MeOH was stirred at rt for 4 d. TLC showed incomplete reaction and the solution was transferred to a sealed tube and heated at 70° C. overnight. The reaction was concentrated and purified by preparative TLC, eluting with 50% EtOAc/hexane, to yield 1-(4-phenoxyphenyl)-1H-pyrazole-3-carboxamide (Rf=0.26, 56 mg, 52%), mp 165-167° C. 1H NMR (300 MHz, DMSO-d6) δ 8.50 (d, J=2.7 Hz, 1H, pyrazole), 7.92 (d, J=9.0 Hz, 2H, Phenyl), 7.71 (br, 1H, NH2), 7.43 (m, 2H, Phenoxy), 7.39 (br, 1H, NH2), 7.18 (m, 1H, Phenoxy), 7.17 (d, J 9.0 Hz, 2H, Phenyl), 7.07 (m, 2H, Phenoxy), 6.87 (d, J=2.7 Hz, 1H, pyrazole).

reactant | 3-ethoxycarbonyl-1-(4-phenoxyphenyl)-1H-pyrazole | 0.39 mmol, 120 mg | C(C)OC(=O)C1=NN(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1 | C18H16N2O3
reactant | ammonia | N | H3N
solvent | MeOH | CO | CH4O
product | 1-(4-phenoxyphenyl)-1H-pyrazole-3-carboxamide | 56 mg, 52% | O(C1=CC=CC=C1)C1=CC=C(C=C1)N1N=C(C=C1)C(=O)N | C16H13N3O2
